US08049009B2
Tenofovir disoproxil fumarate (100 gms, 0.1574 moles) is suspended in Isopropyl alcohol (1100 ml) at 25-35° C. The suspension is heated to about 60° C. for clear solution. The obtained clear solution is maintained for 1 hr at 60-65° C. Slowly cooled the mass to 30° C. in 1 hr and again cooled to 8° C. and maintained for ½ hr at 8-10° C. The precipitated product is filtered and washed with chilled Isopropanol. The wet material is dried at 50-55° C. under vacuum to give Tenofovir disoproxil hemifumarate.

reactant | Tenofovir disoproxil fumarate | 0.1574 moles, 100 gms | C[C@H](CN1C=NC2=C1N=CN=C2N)OCP(=O)(OCOC(=O)OC(C)C)OCOC(=O)OC(C)C.C(=C/C(=O)O)\C(=O)O
solvent | Isopropyl alcohol | 1100 ml | C(C)(C)O | C3H8O
product | Tenofovir disoproxil | C[C@H](CN1C=NC2=C1N=CN=C2N)OCP(=O)(OCOC(=O)OC(C)C)OCOC(=O)OC(C)C | C19H30N5O10P
